US07223791B2
A mixture of methyl 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]-3-nitrobenzoate (1.50 g), 1 M aqueous sodium hydroxide solution (7.8 ml) and tetrahydrofuran (10 ml) was heated under reflux for 30 min. After cooling, 1 M hydrochloric acid was added to acidify the reaction mixture. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1-10:1, volume ratio) to give 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]-3-nitrobenzoic acid (0.600 g, yield 42%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 233–235° C.

reactant | methyl 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]-3-nitrobenzoate | 1.50 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(O1)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C20H19N3O5
reactant | sodium hydroxide | 1 M, 7.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]-3-nitrobenzoic acid | 0.600 g, yield 42% | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(O1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C19H17N3O5
